US07419984B2
6-(5-Bromo-2-methyl-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-chloro-phenylamine provided the title compound (76% yield). 1H NMR (DMSO-d6) δ 2.35 (s, 3H, CH3), 6.39 (s, 1H, Ar), 7.40 (d, 1H, J=8.4 Hz, Ar), 7.47 (d, 2H, J=8.5 Hz, Ar), 7.70-7.71 (m, 2H, Ar), 7.84-7.89 (m, 2H, Ar), 10.95 (br s, 1H, NH).

reactant | 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)C | C11H9BrClN3
reactant | 4-chloro-phenylamine | ClC1=CC=C(C=C1)N | C6H6ClN
product | 6-(5-Bromo-2-methyl-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 76% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)C | C17H14BrClN4
